US06723722B1
N-(4-(7-Chloro-2H-benzopyran-3-sulfonyl)-2-oxo-1-piperazinyl)-N-[1-(4-pyridyl)-4-piperidinyl]acetamide Hydrochloride
A solution of 4-(7-chloro-2H-benzopyran-3-sulfonyl)-1-[1-(4-pyridyl)-4-piperidinylamino]-2-piperazinone (95 mg) in acetic anhydride (4 ml) was stirred at 80° C. for 10 hours. The reaction mixture was concentrated and the residue obtained was combined with a 1N aqueous solution of sodium hydroxide and extracted with dichloromethane. The organic phase was washed with aqueous sodium bicarbonate and brine, dried and concentrated to obtain N-[(7-chloro-2H-benzopyran-3-sulfonyl)-2-oxo-1-piperazinyl]-N-[1-(4-pyridyl)-4-piperidinyllacetamide. The resultant free form was dissolved in ethyl acetate, and combined with a solution of hydrochloric acid in ethyl acetate to form a precipitate, which was collected by filtration, washed with ethyl acetate, dried under reduced pressure to obtain the title compound (90 mg) as a colorless solid.

reactant | 4-(7-chloro-2H-benzopyran-3-sulfonyl)-1-[1-(4-pyridyl)-4-piperidinylamino]-2-piperazinone | 95 mg | ClC1=CC2=C(C=C(CO2)S(=O)(=O)N2CC(N(CC2)NC2CCN(CC2)C2=CC=NC=C2)=O)C=C1 | C23H26ClN5O4S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | acetic anhydride | 4 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(4-(7-Chloro-2H-benzopyran-3-sulfonyl)-2-oxo-1-piperazinyl)-N-[1-(4-pyridyl)-4-piperidinyl]acetamide Hydrochloride | 90 mg | Cl.ClC1=CC2=C(C=C(CO2)S(=O)(=O)N2CC(N(CC2)N(C(C)=O)C2CCN(CC2)C2=CC=NC=C2)=O)C=C1 | InChI=1S/C25H28ClN5O5S.ClH/c1-18(32)31(22-6-10-28(11-7-22)21-4-8-27-9-5-21)30-13-12-29(16-25(30)33)37(34,35)23-14-19-2-3-20(26)15-24(19)36-17-23;/h2-5,8-9,14-15,22H,6-7,10-13,16-17H2,1H3;1H
